US05583247
2,6-Di-tert-butyl-4-(2-oxopropylidene)-cyclohexa-2,5-dienone
4.12 g (0.02 Mol) of 2,6-di-tert-butylphenol and 4.0 g (0.022 mol) of 40% aqueous pyruvic aldehyde are dissolved in 20 ml of acetic acid. The solution is then saturated at 15°-25° C. with hydrogen chloride gas and stirred at room temperature for additional two hours. The mixture is then diluted with 200 ml of toluene, washed several times with water, dried over anhydrous sodium sulfate, and evaporated in vacuo. The oily residue is then chromatographed on silica gel with toluene. The pure fractions are recrystallized three times from methanol to give 0.15 g of the title compound as orange needles, melting at 70°-72° C.

reactant | 2,6-di-tert-butylphenol | 0.02 Mol, 4.12 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | pyruvic aldehyde | 0.022 mol, 4.0 g | CC(=O)C=O | C3H4O2
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-Di-tert-butyl-4-(2-oxopropylidene)-cyclohexa-2,5-dienone | 0.15 g | C(C)(C)(C)C=1C(C(=CC(C1)=CC(C)=O)C(C)(C)C)=O | C17H24O2
